US09193692B2
C. 3-(3-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole
3-(4-Bromo-3-methylphenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole (2.294 g, 7.12 mmol), bis(pinacolato)diboron (1.898 g, 7.48 mmol), [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II), complex with dichloromethane (1:1) (291 mg, 0.36 mmol), potassium acetate (2.096 g, 21.4 mmol) and dimethyl sulfoxide (15 mL) were combined in a round bottom flask and stirred. The atmosphere in the flask was removed under vacuum and replaced with nitrogen three times. The resulting mixture was heated at 90° C. under nitrogen for 4 h. The resulting mixture was diluted with ethyl acetate and filtered through Celite. The filter cake was washed thoroughly with ethyl acetate. The filtrate was washed twice with water, once with brine, dried over magnesium sulfate, filtered and concentrated under reduced pressure. Flash chromatography (30-50% ethyl acetate in hexanes) gave a waxy semi-solid which was triturated with hexane at 45° C. The resulting solids were dried under vacuum to give the desired product (2.10 g, 5.69 mmol, 80% yield) as a pink powder. MS (ESI) m/z 370 [M+1]+.

reactant | 3-(4-Bromo-3-methylphenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole | 7.12 mmol, 2.294 g | BrC1=C(C=C(C=C1)C1=NN=CN1C1OCCCC1)C | C14H16BrN3O
reactant | bis(pinacolato)diboron | 7.48 mmol, 1.898 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | dichloromethane | 0.36 mmol, 291 mg | ClCCl | CH2Cl2
reactant | potassium acetate | 21.4 mmol, 2.096 g | C(C)(=O)[O-].[K+]
catalyst | [1,1′-bis(diphenylphosphino)-ferrocene]dichloropalladium(II) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dimethyl sulfoxide | 15 mL | CS(=O)C | C2H6OS
product | 3-(3-Methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-4-(tetrahydro-2H-pyran-2-yl)-4H-1,2,4-triazole | 5.69 mmol, 2.10 g, 80% yield | CC=1C=C(C=CC1B1OC(C(O1)(C)C)(C)C)C1=NN=CN1C1OCCCC1 | C20H28BN3O3
